US07671201B2
Step C Synthesis of tert-butyl 4-[4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenyl]piperazinecarboxylate as an Intermediate
This compound was prepared in a manner analogous to that of Example 1 Step C, by the reaction of 2.8 grams (0.008 mole) of tert-butyl 4-(2,6-dichloro-4-hydroxyphenyl)piperazinecarboxylate, 2.2 grams (0.012 mole) of 1,1,1,3-tetrachloropropane and 1.7 grams (0.012 mole) of potassium carbonate in 75 mL of DMF. The crude reaction product was purified with column chromatography on silica gel using 50% hexane in methylene chloride and finally 100% methylene chloride as eluants. The appropriate fractions were combined and concentrated under reduced pressure, yielding 0.88 gram of the subject compound. The NMR spectrum was consistent with the proposed structure. The reaction was repeated to obtain additional material for the next reactive step.

reactant | tert-butyl 4-(2,6-dichloro-4-hydroxyphenyl)piperazinecarboxylate | 0.008 mole, 2.8 grams | ClC1=C(C(=CC(=C1)O)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C15H20Cl2N2O3
reactant | 1,1,1,3-tetrachloropropane | 0.012 mole, 2.2 grams | ClC(CCCl)(Cl)Cl | C3H4Cl4
reactant | potassium carbonate | 0.012 mole, 1.7 grams | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-[4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenyl]piperazinecarboxylate | 0.88 gram | ClC(=CCOC1=CC(=C(C(=C1)Cl)N1CCN(CC1)C(=O)OC(C)(C)C)Cl)Cl | C18H22Cl4N2O3
